US05405851
3,8-Diamino-5,6-dihydrobenzo[f]quinazolin-1(2H)-one
A suspension of 3-amino-5,6-dihydro-8-nitrobenzo[f]quinazolin-1(2H)-one sulfate monohydrate (2.0 g, 5.3 mmoles) and 5% palladium on carbon (10 mg) in 1 N HCl (20 ml) was reacted with hydrogen using a Parr hydrogenation apparatus. When uptake of hydrogen ceased, the mixture was filtered and the filtrate was evaporated, leaving a white residue which was resuspended in water (20 ml) with stirring, and filtered. The crude product was recrystallized from 2M H2SO4 to give, after drying, 3,8-diamino-5,6-dihydrobenzo[f]quinazolin-1(2H)-one as a white solid. (1.1 g, 61%) 1H NMR (DMSO-d6, 80 MHz) δ: 2.60-2.65(m, 4H, CH2CH2); 4.99-5.69(br s, 2H, NH2); 6.75-6.79(m, 4H, NH2 +Ar); 8.24-8.35(d, J=9 Hz, 1H, Ar). Anal. Calculated for C12H12N4O.H2SO4.1 /2H2O: C, 42.98; H, 4.51; N, 16.71; S, 9.56. Found: C, 42.95; H, 4.54; N, 16.66; S, 9.57.

reactant | 3-amino-5,6-dihydro-8-nitrobenzo[f]quinazolin-1(2H)-one sulfate monohydrate | 5.3 mmoles, 2.0 g | O.S(=O)(=O)(O)O.NC1=NC=2CCC3=C(C2C(N1)=O)C=CC(=C3)[N+](=O)[O-]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | HCl | 1 N, 20 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 3,8-Diamino-5,6-dihydrobenzo[f]quinazolin-1(2H)-one | NC1=NC=2CCC3=C(C2C(N1)=O)C=CC(=C3)N | C12H12N4O
